US09388189B2
(S)-1-(3-Hydroxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)urea
To a suspension of (S)-2-(1-((5-(3-amino-5-hydroxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (50 mg, 0.08 mmol) in 403 μl water and 208 μl acetic acid was added potassium isocyanate (10 mg, 0.12 mmol) The mixture was heated 35° C. overnight. The reaction was poured into water and extracted twice with ethyl acetate. The organics were combined and washed with water, brine, dried over sodium sulphate, filtered and evaporated under reduced pressure. The residue was purified using SP1® Purification System (0% to 100% hexane-ethyl acetate) to obtain 18 mg (33% yield) of the title compound.

reactant | (S)-2-(1-((5-(3-amino-5-hydroxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.08 mmol, 50 mg | NC=1C=C(C=C(C1)O)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C33H38N8O3Si
reactant | potassium isocyanate | 0.12 mmol, 10 mg | [N-]=C=O.[K+]
solvent | water | 403 μl | O | H2O
solvent | acetic acid | 208 μl | C(C)(=O)O | C2H4O2
product | (S)-1-(3-Hydroxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)urea | 18 mg, 33% yield | OC=1C=C(C=C(C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)NC(=O)N | C34H39N9O4Si
